US05514773
To a ethanol solution of methyl N-(t-butoxycarbonyl)-O-methyl-3-nitro-L-tyrosine(6.74 g) was added 1N sodiumhydroxide solution (25 ml) and was stirred for 2 hours at roomtemperature. The solvent was evaporated and water (70 ml) and 1Nhydrochloric acid solution (27.5 ml) was added, extracted with ethylacetate (50 ml×3). After ethyl acetate layer was washed withsaturated brine, the residue was dried over anhydrous sodiumsulfate. The solvent was evaporated in vacuo. To the residue wasadded hexane and ether and it was crystallized to give N-(t-butoxycarbonyl)-O-methyl-3-nitro-L-tyrosine (6.61 g).

reactant | methyl N-(t-butoxycarbonyl)-O-methyl-3-nitro-L-tyrosine | 6.74 g | CN([C@@H](CC1=CC(=C(C=C1)OC)[N+](=O)[O-])C(=O)O)C(=O)OC(C)(C)C | C16H22N2O7
reactant | sodiumhydroxide | 1N, 25 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-(t-butoxycarbonyl)-O-methyl-3-nitro-L-tyrosine | 6.61 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC(=C(C=C1)OC)[N+](=O)[O-])C(=O)O | C15H20N2O7
